US05102667
A solution of 1,1-bis-(3-chlorophenyl)-2-methoxyethanol (47 g) (obtained by reaction of (3-chlorophenyl)magnesium bromide on methyl 2-methoxyacetate in tetrahydrofuran) in formic acid (44 cc) is refluxed for 5 hours, cooled and poured into a mixture of saturated sodium carbonate solution (500 cc) and ethyl acetate (300 cc). The organic phase is washed with water (3×250 cc) and with saturated sodium chloride solution (200 cc), then dried and concentrated to dryness under reduced pressure (2.7 kPa) to give bis-(3-chlorophenyl)acetaldehyde (36.9 g) in the form of a yellow oil.

reactant | 1,1-bis-(3-chlorophenyl)-2-methoxyethanol | 47 g | ClC=1C=C(C=CC1)C(COC)(O)C1=CC(=CC=C1)Cl | C15H14Cl2O2
reactant | sodium carbonate | 500 cc | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 300 cc | C(C)(=O)OCC | C4H8O2
solvent | formic acid | 44 cc | C(=O)O | CH2O2
product | bis-(3-chlorophenyl)acetaldehyde | 36.9 g | ClC=1C=C(C=CC1)C(C=O)C1=CC(=CC=C1)Cl | C14H10Cl2O
